US04055536
1,1'-bis(2-hydroxyethyl)-2,2,2',2',6,6,6',6'-octamethyl-4,4'-bipiperidylidene
A mixture of 41.7 g of 2,2,2',2',6,6,6',6'-octamethyl-4,4'-bipiperidylidene, 100g of ethylene oxide, 700 ml of ethanol and 0.06 g of concentrated hydrochloric acid was stirred at 105°-110° C for 10 hours in an autoclave. After completion of the reaction, the reaction mixture was concentrated, and the resulting residue was recrystallized from benzene, to give 37.2 g of the desired product as white crystals melting at 226.5°-227.5° C.

reactant | 2,2,2',2',6,6,6',6'-octamethyl-4,4'-bipiperidylidene | 41.7 g | CC1(NC(CC(C1)=C1CC(NC(C1)(C)C)(C)C)(C)C)C | C18H34N2
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | hydrochloric acid | 0.06 g | Cl | ClH
reactant | ethanol | 700 ml | C(C)O | C2H6O
product | 1,1'-bis(2-hydroxyethyl)-2,2,2',2',6,6,6',6'-octamethyl-4,4'-bipiperidylidene | 37.2 g | OCCN1C(CC(CC1(C)C)=C1CC(N(C(C1)(C)C)CCO)(C)C)(C)C | C22H42N2O2
